*
.SUBCKT PBSS4440D 1 2 3 4 5 6
*
R1 1 2 0
R2 1 5 0
R3 1 6 0
*
Q1 1 3 4 PBSS4440D
D1 3 1 DIODE
*
*The diode does not reflect a 
*physical device but improves 
*only modeling in the reverse 
*mode of operation.
*
.MODEL PBSS4440D NPN 
+ IS = 1.147E-012 
+ NF = 0.9743 
+ ISE = 1.81E-015 
+ NE = 1.121 
+ BF = 600 
+ IKF = 3 
+ VAF = 15 
+ NR = 0.974 
+ ISC = 3.648E-013 
+ NC = 2.393 
+ BR = 110 
+ IKR = 5 
+ VAR = 8.8 
+ RB = 14.4 
+ IRB = 0.0006 
+ RBM = 0.74 
+ RE = 0.038 
+ RC = 0.03 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 5.681E-010 
+ VJE = 0.7622 
+ MJE = 0.3574 
+ TF = 1.2E-009 
+ XTF = 2.5 
+ VTF = 0.6 
+ ITF = 1 
+ PTF = 0 
+ CJC = 9.107E-011 
+ VJC = 0.04067 
+ MJC = 0.1902 
+ XCJC = 1 
+ TR = 4E-009 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.1 
.MODEL DIODE D 
+ IS = 2.889E-014 
+ N = 1.004 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 1000 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*
