*
.SUBCKT PBSS5140D 1 2 3 4 5 6 
*
R1 1 2 0
R2 1 5 0
*
Q1 1 3 6 PBSS5140D 
*
.MODEL PBSS5140D PNP 
+ IS = 2.837E-13 
+ NF = 0.9839 
+ ISE = 1.071E-14 
+ NE = 1.221 
+ BF = 577.3 
+ IKF = 0.56 
+ VAF = 28 
+ NR = 0.982 
+ ISC = 6.577E-14 
+ NC = 1.123 
+ BR = 121 
+ IKR = 0.2 
+ VAR = 10 
+ RB = 21 
+ IRB = 0.00019 
+ RBM = 0.2 
+ RE = 0.11 
+ RC = 0.12 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.276E-11 
+ VJE = 0.819 
+ MJE = 0.4077 
+ TF = 6.5E-10 
+ XTF = 5 
+ VTF = 2 
+ ITF = 2 
+ PTF = 0 
+ CJC = 3.252E-11 
+ VJC = 0.803 
+ MJC = 0.4962 
+ XCJC = 1 
+ TR = 1.5E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
.ENDS
*
