*
.SUBCKT PBSS5350D 1 2 3 4 5 6
*
R1 1 2 0
R2 1 5 0
R3 1 6 0
* 
Q1 1 3 4 PBSS5350D
+ AREA = 1
D1 1 3 DIODE
*
*The diode does not reflect a 
*physical device but improves 
*only modeling in the reverse 
*mode of operation.
*
.MODEL PBSS5350D PNP
+ IS = 5.841E-13
+ NF = 0.9934
+ ISE = 9.926E-15
+ NE = 1.3
+ BF = 360
+ IKF = 2.36
+ VAF = 40
+ NR = 0.9927
+ ISC = 1.037E-13
+ NC = 1.19
+ BR = 75
+ IKR = 0.7
+ VAR = 12
+ RB = 7
+ IRB = 0.00075
+ RBM = 1
+ RE = 0.047
+ RC = 0.041
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 2.915E-10
+ VJE = 0.73
+ MJE = 0.375
+ TF = 1.1E-09
+ XTF = 21
+ VTF = 0.7
+ ITF = 3
+ PTF = 0
+ CJC = 8.8E-11
+ VJC = 0.575
+ MJC = 0.4
+ XCJC = 1
+ TR = 1.5E-08
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.4
.MODEL DIODE D
+ IS = 3E-16
+ N = 1
+ BV = 1000
+ IBV = 0.001
+ RS = 0.6
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*
