*
.SUBCKT PBSS5420D 1 2 3 4 5 6
*
R1 1 2 0
R2 1 5 0
R3 1 6 0
*
Q1 1 3 4 PBSS5420D
D1 1 3 DIODE
*
*The diode does not reflect a 
*physical device but improves 
*only modeling in the reverse 
*mode of operation.
*
.MODEL PBSS5420D PNP 
+ IS = 6.826E-013 
+ NF = 0.9637 
+ ISE = 3.983E-014 
+ NE = 1.228 
+ BF = 420 
+ IKF = 3.4 
+ VAF = 20 
+ NR = 0.96 
+ ISC = 1E-018 
+ NC = 2.7 
+ BR = 160 
+ IKR = 0.7 
+ VAR = 6.9 
+ RB = 20 
+ IRB = 0.001 
+ RBM = 0.49 
+ RE = 0.037 
+ RC = 0.035 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 5.049E-010 
+ VJE = 1 
+ MJE = 0.469 
+ TF = 2.3E-009 
+ XTF = 0.4 
+ VTF = 15 
+ ITF = 0.5 
+ PTF = 0 
+ CJC = 2.529E-010 
+ VJC = 0.5406 
+ MJC = 0.3499 
+ XCJC = 1 
+ TR = 3.3E-009 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.9 
.MODEL DIODE D 
+ IS = 1.748E-013 
+ N = 1.2 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 500 
+ CJO = 0 
+ VJ = 1 
+ M = 0.9 
+ FC = 0 
+ TT = 0 
+ EG = 1.1 
+ XTI = 3 
.ENDS
*
