*
.SUBCKT PBSS5440D 1 2 3 4 5 6
*
R1 1 2 0
R2 1 5 0
R3 1 6 0
*
Q1 1 3 4 PBSS5440D
D1 1 3 DIODE
*
*The diode does not reflect a 
*physical device but improves 
*only modeling in the reverse 
*mode of operation.
*
.MODEL PBSS5440D PNP 
+ IS = 6.033E-013 
  + NF = 0.9576 
  + ISE = 4.885E-014 
  + NE = 1.233 
  + BF = 380 
  + IKF = 1.95 
  + VAF = 12.8 
  + NR = 0.9592 
  + ISC = 1E-018 
  + NC = 3 
  + BR = 68 
  + IKR = 1.5 
  + VAR = 6.9 
  + RB = 15.2 
  + IRB = 0.001 
  + RBM = 0.75 
  + RE = 0.035 
  + RC = 0.018 
  + XTB = 0 
  + EG = 1.11 
  + XTI = 3 
  + CJE = 4.977E-010 
  + VJE = 0.8119 
  + MJE = 0.3949 
  + TF = 2.35E-009 
  + XTF = 15 
  + VTF = 5 
  + ITF = 10 
  + PTF = 0 
  + CJC = 1.698E-010 
  + VJC = 0.4041 
  + MJC = 0.2934 
  + XCJC = 1 
  + TR = 2.5E-009 
  + CJS = 0 
  + VJS = 0.75 
  + MJS = 0.333 
  + FC = 0.8 
  .MODEL DIODE D 
  + IS = 2.586E-013 
  + N = 1.197 
  + BV = 1000 
  + IBV = 0.001 
  + RS = 1000 
  + CJO = 0 
  + VJ = 1 
  + M = 0.9 
  + FC = 0 
  + TT = 0 
  + EG = 1.1 
+ XTI = 3 
.ENDS
*
