*
.SUBCKT PBSS9110D 1 2 3 4 5 6
*
R1 1 2 0
R2 1 5 0
R3 1 6 0
*
Q1 1 3 4 PBSS9110D
D1 1 3 DIODE
*
*The diode does not reflect a 
*physical device but improves 
*only modeling in the reverse 
*mode of operation.
*
.MODEL PBSS9110D PNP 
+ IS = 3.155E-013 
+ NF = 0.9898 
+ ISE = 3.686E-014 
+ NE = 1.374 
+ BF = 300 
+ IKF = 0.4 
+ VAF = 25 
+ NR = 0.988 
+ ISC = 5E-014 
+ NC = 2.742 
+ BR = 18 
+ IKR = 5 
+ VAR = 15 
+ RB = 10 
+ IRB = 0.0007 
+ RBM = 1.85 
+ RE = 0.06 
+ RC = 0.11 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.165E-010 
+ VJE = 0.8147 
+ MJE = 0.4025 
+ TF = 1.125E-009 
+ XTF = 1.2 
+ VTF = 2.2 
+ ITF = 0.9 
+ PTF = 0 
+ CJC = 4.783E-011 
+ VJC = 1 
+ MJC = 0.53 
+ XCJC = 1 
+ TR = 4E-008 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.99
*
.MODEL DIODE D 
+ IS = 9.765E-014 
+ N = 1.021 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 1500 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*
