*
* PBSS4140DPN
*
* 2 Complementary BISS Transistors in SOT457 / SC-74
*
.SUBCKT PBSS4140DPN 1 2 3 4 5 6
*
* The diode does not reflect a 
* physical device but improves 
* only modeling in the reverse
* mode of operation.
*
Q1 6 2 1 TR1
D1 2 6 DIODE1
Q2 3 5 4 TR2
*
.MODEL TR1 NPN
+ IS = 1.933E-13 
+ NF = 0.9751 
+ ISE = 5.906E-16 
+ NE = 1.2 
+ BF = 441.7 
+ IKF = 5.05 
+ VAF = 85 
+ NR = 0.9739 
+ ISC = 1E-32 
+ NC = 2 
+ BR = 81 
+ IKR = 0.5 
+ VAR = 12 
+ RB = 80 
+ IRB = 3E-05 
+ RBM = 0.6 
+ RE = 0.129 
+ RC = 0.14 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.021E-10 
+ VJE = 0.5499 
+ MJE = 0.3105 
+ TF = 4E-10 
+ XTF = 9 
+ VTF = 3 
+ ITF = 1.5 
+ PTF = 0 
+ CJC = 2.134E-11 
+ VJC = 0.6106 
+ MJC = 0.4466 
+ XCJC = 1 
+ TR = 2.1E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.9485 
.MODEL DIODE1 D 
+ IS = 5E-15 
+ N = 1 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 1000 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.MODEL TR2 PNP
+ IS = 2.837E-13 
+ NF = 0.9839 
+ ISE = 1.071E-14 
+ NE = 1.221 
+ BF = 577.3 
+ IKF = 0.56 
+ VAF = 28 
+ NR = 0.982 
+ ISC = 6.577E-14 
+ NC = 1.123 
+ BR = 121 
+ IKR = 0.2 
+ VAR = 10 
+ RB = 21 
+ IRB = 0.00019 
+ RBM = 0.2 
+ RE = 0.11 
+ RC = 0.12 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.276E-11 
+ VJE = 0.819 
+ MJE = 0.4077 
+ TF = 6.5E-10 
+ XTF = 5 
+ VTF = 2 
+ ITF = 2 
+ PTF = 0 
+ CJC = 3.252E-11 
+ VJC = 0.803 
+ MJC = 0.4962 
+ XCJC = 1 
+ TR = 1.5E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
.ENDS
*
