*
.SUBCKT PBSS2540E 1 2 3
*
Q1 3 1 2 PBSS2540E
D1 1 2 Diode
*
*The diode does not reflect a 
*physical device but improves 
*only modeling in the reverse 
*mode of operation.
*
.MODEL PBSS2540E NPN
+ IS = 4.366E-014 
+ NF = 0.9846 
+ ISE = 1.073E-015 
+ NE = 1.338 
+ BF = 400 
+ IKF = 0.1 
+ VAF = 20 
+ NR = 0.985 
+ ISC = 1E-018 
+ NC = 2.753 
+ BR = 40 
+ IKR = 0.4 
+ VAR = 10.4 
+ RB = 48.2 
+ IRB = 0.0004 
+ RBM = 8.46 
+ RE = 0.09 
+ RC = 0.2 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 3.557E-011 
+ VJE = 0.8 
+ MJE = 0.36 
+ TF = 5.55E-010 
+ XTF = 3 
+ VTF = 1.5 
+ ITF = 0.5 
+ PTF = 0 
+ CJC = 7.6E-012 
+ VJC = 0.5172 
+ MJC = 0.3587 
+ XCJC = 1 
+ TR = 5.4E-007 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
.MODEL DIODE D 
+ IS = 2.86E-015 
+ N = 1.016 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 500 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
