*
.SUBCKT PBSS5160K 1 2 3 
*
* The diode does not reflect a 
* physical device but improves 
* only modeling in the reverse
* mode of operation.
*
Q1 3 1 2 PBSS5160K 
D1 3 1 DIODE
* 
*.MODEL PBSS5160K PNP 
+ IS = 1.695E-013 
+ NF = 0.9919 
+ ISE = 1.5E-014 
+ NE = 1.348 
+ BF = 370 
+ IKF = 0.4 
+ VAF = 40 
+ NR = 0.9912 
+ ISC = 1.541E-013 
+ NC = 1.821 
+ BR = 30 
+ IKR = 0.4 
+ VAR = 18 
+ RB = 12 
+ IRB = 0.001 
+ RBM = 1.12 
+ RE = 0.105 
+ RC = 0.105 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 9.466E-011 
+ VJE = 0.8044 
+ MJE = 0.3919 
+ TF = 9E-010 
+ XTF = 20 
+ VTF = 1.1 
+ ITF = 1.35 
+ PTF = 0 
+ CJC = 3.162E-011 
+ VJC = 0.7543 
+ MJC = 0.4479 
+ XCJC = 1 
+ TR = 3.2E-008 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.8 
.MODEL DIODE D 
+ IS = 1.651E-014 
+ N = 1.079 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 1000 
+ CJO = 0 
+ VJ = 1 
+ M = 0.7 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
