*
.SUBCKT PBSS4120T 1 2 3
*
* housing parasitics
LBlead 11 111 3.5E-10
LE 2 22 1.12E-09
LC 3 33 2.3E-10
LBbond 1 11 9E-10
CBCG 33 111 6.2E-14
CBEG 22 111 4.5E-14
CCEG 22 33 6.2E-14
*
Q1 33 111 22 PBSS4120T
*
.MODEL PBSS4120T NPN 
+ IS = 3.984E-013 
+ NF = 0.957 
+ ISE = 3.127E-015 
+ NE = 1.187 
+ BF = 570 
+ IKF = 2.8 
+ VAF = 88 
+ NR = 0.9615 
+ ISC = 1.253E-013 
+ NC = 1.35 
+ BR = 90.88 
+ IKR = 3800 
+ VAR = 10.6 
+ RB = 14 
+ IRB = 0.0009 
+ RBM = 9.392 
+ RE = 0.08 
+ RC = 0.0305 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.639E-010 
+ VJE = 0.7555 
+ MJE = 0.364 
+ TF = 5.8E-010 
+ XTF = 9 
+ VTF = 1.5 
+ ITF = 1 
+ PTF = 0 
+ CJC = 5.076E-011 
+ VJC = 0.7 
+ MJC = 0.465 
+ XCJC = 1 
+ TR = 1.22E-009 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.99 
.ENDS
